US07393959B2
A solution of 1,3-diiodobenzene (1.10 g, 3.3 mmol), 3-(diethylboryl)pyridine (0.48 g, 3.3 mmol), tetrakis(triphenlyphosphine)palladium(0) (0.010 g, 0.0086 mmol) potassium carbonate (0.922 g, 6.64 mmol), in mixed solvent of 3 mL DMF and 1 mL water, was heated at 150° C. for 5 minutes under microwave irradiation. The reaction mixture was quenched with H2O (30 mL), then extracted with EtOAc (3×30 mL) and the combined organic extracts washed with brine. The organic phase was dried over Na2SO4 and concentrated in vacuo. The crude purified by liquid chromatography on silica gel using an ISCO single channel system (Hexane/EtOAc=9/1 to 1/9) to afford 3-(3-iodophenyl)pyridine as a yellow oil.

reactant | 1,3-diiodobenzene | 3.3 mmol, 1.10 g | IC1=CC(=CC=C1)I | C6H4I2
reactant | 3-(diethylboryl)pyridine | 3.3 mmol, 0.48 g | C(C)B(C=1C=NC=CC1)CC | C9H14BN
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | 1 mL | O | H2O
product | 3-(3-iodophenyl)pyridine | IC=1C=C(C=CC1)C=1C=NC=CC1 | C11H8IN
